2140-11-24 11:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2140-11-23**] 08:41 AM
 EKG - At [**2140-11-23**] 10:20 AM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2140-11-24**]
   01:41 AM
   ng tube
   TTE done yesterday-->Severe MR [**First Name (Titles) **] [**Last Name (Titles) 3676**] = 60-64,  Nml Biventricular
   function, no pericardial effusion
   Pressors tapered overnight but had to be increased this AM for HoTN.
   Patient self-d/c'd NGT.
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2140-11-24**] 07:39 AM
   Vancomycin - [**2140-11-24**] 10:00 AM
   Infusions:
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-11-23**] 10:54 AM
   Lorazepam (Ativan) - [**2140-11-24**] 10:17 AM
   Other medications:
   Thiamine, MVI, Trileptal, Folate, Levothyoxine, Pantoprazole, Valproate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-24**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.8
   HR: 102 (82 - 111) bpm
   BP: 74/55(51) {71/43(49) - 115/92(97)} mmHg
   RR: 15 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,948 mL
                                                                  3,892 mL
   PO:
             TF:
             10 mL
   IVF:
                                                                  6,948 mL
                                                                  3,882 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    670 mL
   Urine:
                                                                    770 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,178 mL
                                                                  3,222 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   Irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   324 K/uL
   212 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.4 mEq/L
   47 mg/dL
   120 mEq/L
   151 mEq/L
   32.9 %
   13.7 K/uL
        [image002.jpg]
                            [**2140-11-22**]  11:24 PM
                            [**2140-11-22**]  11:30 PM
                            [**2140-11-23**]  01:10 AM
                            [**2140-11-23**]  04:58 AM
                            [**2140-11-23**]  09:05 AM
                            [**2140-11-23**]  03:03 PM
                            [**2140-11-23**]  03:18 PM
                            [**2140-11-23**]  03:42 PM
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
   WBC
   12.0
   13.7
   Hct
   33.4
   0
   36
   33.0
   32.9
   Plt
   352
   324
   Cr
   2.4
   2.4
   2.3
   2.1
   2.0
   1.7
   TropT
   0.31
   0.29
   Glucose
   93
   122
   170
   160
   189
   192
   212
   Other labs: PT / PTT / INR:16.0/30.1/1.4, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:20/41, Alk Phos / T Bili:58/0.7,
   Amylase / Lipase:15/28, Lactic Acid:1.5 mmol/L, Albumin:2.1 g/dL,
   LDH:365 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Microbiology: BCx:  NGTD
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's p/w profound dehydration.
   Hypotension:  Still requiring some low dose pressors.  Unclear if
   source is all from dehydration or if a second process is present.  Poor
   cardiac output from severe MR may be playing a role.  No clear source
   of sepsis.  Unclear if non-invasive BP's are accurate as she is alert
   and often times yelling with SBP's of 60's.
     -Will wean off pressors and follow lactates for signs of
   hypoperfusion.  Her behavior prohibits A-line placement at this time.
     -D/C vancomycin.  If UCx negative, will d/c zosyn.
   Hypernatremia:  Hypovolemic.  Improving
     -Continue with free water in D5 1/2NS drip.  If continues to improve
   today, switch to Qdaily checks tomorrow
   Failure to Thrive:  Needs GOC discussion.  Patient not tolerating NGT
   placement and may not tolerate PEG placement.  Will try to meet with
   family when able.
      -Continue vitamin support
      -Continue hydration
   Elevated cardiac Biomarkers:  Appears stress related.  No further
   intervention
   AFib:  Currently off of sotalol and coumadin as she is not taking
   PO's.  Will address this issue with family.
   Access:  Currently has femoral line.  Given her behavior, placing an IJ
   vs SC line would be challenging and there is concern that she may pull
   it out.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2140-11-25 07:38:00 Physician Resident Progress Note
Chief Complaint: admitted with FTT, dehydration, hypotension
   24 Hour Events:
   n        failed wean from levophed yest afternoon; SBP dropped to 50
   while off within 15 minutes.
   n        Received ativan 1 mg IV yesterday morning, which caused
   somnolence throughout the day
   n        Had conversation with brother, [**Name (NI) 1384**], about possibility of PEG
   tube and overall prognosis; brother still undecided about goals of
   care, feeding tubes, etc.
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-11-24**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-11-25**] 02:00 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-11-24**] 10:17 AM
   Heparin Sodium (Prophylaxis) - [**2140-11-24**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: not able to obtain from patient given lack of verbal
   communication
   Flowsheet Data as of  [**2140-11-25**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 112 (80 - 121) bpm
   BP: 115/84(90) {74/40(51) - 115/84(90)} mmHg
   RR: 23 (0 - 29) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  7,148 mL
                                                                  1,553 mL
   PO:
             TF:
                                                                     10 mL
   IVF:
                                                                  7,138 mL
                                                                  1,553 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    340 mL
   Urine:
                                                                  1,210 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,938 mL
                                                                  1,215 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Lungs: unable to cooperate with exam due to baseline MR/MS
   [**Name13 (STitle) **]: V/VI SEM throughout w/ radiation to the back
   Abd: +BS; soft, NTND
   Extremities: [**12-27**]+ edema in hands and legs; symmetric; WWP
   Skin: fine
[**Doctor Last Name 170**]
 blanching macular rash on back/legs/hands (not abd);
   scabbed erosion on right hip/trochanter, no evidence of surrounding
   erythema, fluctuance or drainage; no other evidence of skin breakdown
   Neuro: awake, follows simple commands slowly (e.g., open eyes); moaning
   frequently; cannot answer questions to assess orientation; moving all
   limbs spontaneously; CN II -  XII grossly in tact
   Labs / Radiology
   303 K/uL
   11.1 g/dL
   91 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   23 mg/dL
   117 mEq/L
   147 mEq/L
   32.2 %
   10.1 K/uL
        [image002.jpg]
                            [**2140-11-23**]  04:58 AM
                            [**2140-11-23**]  09:05 AM
                            [**2140-11-23**]  03:03 PM
                            [**2140-11-23**]  03:18 PM
                            [**2140-11-23**]  03:42 PM
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
   WBC
   12.0
   13.7
   10.1
   Hct
   0
   36
   33.0
   32.9
   32.2
   Plt
   [**Telephone/Fax (3) 3700**]
   Cr
   2.4
   2.3
   2.1
   2.0
   1.7
   1.2
   1.2
   1.1
   TropT
   0.29
   Glucose
   170
   160
   189
   192
   [**Telephone/Fax (2) 3701**]1
   Other labs: PT / PTT / INR:14.5/31.0/1.3, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:20/41, Alk Phos / T Bili:58/0.7,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.1 g/dL, LDH:365 IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:1.4
   mg/dL
   Assessment and Plan
   Assessment and Plan:
   Patient is a 52 year old female with Down's syndrome, Alzhemier
   dementia, atrial fibrillation and hypothyroidism who presented with
   failure to thrive, decreased PO intake, elevated lactate,
   hypernatremia, hypotension, and supratherapeutic INR.  Overall has been
   improving with IVF, though remains pressor-dependent and with no Po
   intake.
   #) Hypotension: Etiology still remains not fully clear
patient at that
   time has been aggressively fluid resuscitated and likely still has
   significant deficit, but would be hard to attribute hypotension solely
   to this source, especially given she was normotensive at outpatient
   visit. Cardiac echocardiogram with severe MR, but function was normal,
   without pericardial effusion; severe MR could be contributing to
   hypotension, but again seems less likely that this is sole cause. This
   leaves sepsis as a possibility, although source would unclear
U/A from
   ED was fairly unremarkable, repeat one in ICU with many white (but also
   many red) cells; initial culture contaminated, second pending. No
   steroid use to make adrenal insufficiency more likely. Initially was
   tachycardiac, but not hypoxic to suggest PE with compromised cardiac
   output; additionally patient is already on coumadin making this less
   likely, especially with supratherapeutic levels.
   - Cultures pending, patient given vancomycin and zosyn in ED, but no
   real clear source of infection at present (CXR unremarkable, abd exam
   benign, urine analysis not overwhelming ), stool for c. diff should she
   have diarrhea. LP is a consideration, but has not been febrile, MS
   appears to be at baseline, and would need to consciously sedate to
   complete given patient cannot cooperate with this. Will stop vancomycin
   currently (no indwelling line or other reason to think she has MRSA
   skin or blood stream infection). Will continue zosyn until repeat
   urine/blood cultures are no growth for another 24 hrs (during last
   admission had UTI that was felt to be contributing to failure to
   thrive).
   - Transthoracic echocardiogram as noted above.
   - IVF boluses and IVF maintanence to make up for severe dehydration
   - Continue levophed as needed should IVFs not improve BP, will try to
   wean
   - Lactate has returned to [**Location 201**]
   .
   #) Failure to thrive/poor PO intake: Per OMR notes and office visit
   note detailing concerns of her care-givers, this has been an ongoing
   issue for months that appears to have acutely worsened. There appears
   to be at least some behavoiral component in setting of possibly
   worsening Alzheimer's dementia.
   - Family [**Name (NI) 161**], will be in today to begin to discuss goals of care,
   as PEG tube may be necessary to meet caloric needs given that patient
   has had ongoing difficulties with PO intake since at least [**Month (only) 779**].
   Patient also has been recommended to get EGD to evaluate her dysphagia
   further, so consideration for completion of this on an inpatient basis
   should be made. Concern is that patient will pull out PEG if placed.
   - Supportive care with IVFs, electrolyte repletion (still has
   significant fluid deficit)
   - Working up infectious etiology
   - TSH, FT4 both WNL
   - Speech and swallow evaluation completed (difficult to assess given
   patient
s lack of cooperation)
   - Nutrition consult as patient is at high risk for re-feeding syndrome
   (will need to do calorie count versus Dobhoff for tube feeds versus
   consideration of PEG)
   - Social work consult appreciated
   - PT consult once out of ICU
   - Consider psychiatry/neurobehavoiral evaluation once further
   stabilized or as outpatient for further recommendations
   - KUB to evaluate for obstruction, constipation was unremarkable
   - Folate, MV, thiamine supplementation
   - Low dose haldol if needed for help with agitation
   - Given question of acutely worsening dementia, checking vitamin B12,
   no known risk factors (not sexually active) for syphilis, TSH WNL,
   working on correcting other metabolic abnormalities that could be
   contributing to dementia
   .
   #) Acute renal failure: Much improved today, creatinine down to 1.7.
   Given elevated BUN, and history of virtually no PO intake for extended
   period, suspect pre-renal etiology. Baseline creatinine from [**7-/2140**] was
   around 1.0.
   - Continue to trend creatinine, BUN
   - Urine electrolytes as noted
   - Urine analysis/urine culture
   - Consider renal ultrasound to evaluate for obstruction or
   hydronephrosis should creatinine not continue to improve
   - Will hold any nephrotoxic medications
   #) Hypernatremia: Suspect hypovolemic given history, exam, also not
   helped by patient continuing to take home dose of lasix. Water deficit
   is over 8 L, however currently needs fluid boluses to increase
   intravascular volume.
   - Fluid resuscitation with D5LR, then D51/2NS once no longer requiring
   IVF boluses to maintain BP.
   - Space out sodium checks to [**Hospital1 **] given improvement to 150
   .
   #) Elevated troponin: Patient unable to give history if she has had
   chest pain or other symptoms. Slow decline in functional status does
   not support ACS, however could have had event at some point in past. On
   admission CK elevated to 235, with troponin of 0.53, but MB index WNL.
   In setting of renal insufficiency, these are difficult to interpret.
   Her EKG has a poor baseline, and furthermore ST segments difficult to
   interpret in percoridal leads given LVH.
   - Cycle cardiac enzymes
improved.
   - Continue sotalol once able to take PO
   - Once INR improves and not clearly bleeding, initiate aspirin therapy
   - Transthoracic echo to evaluate for focal wall abnormalities as noted
   above.
   .
   #) Elevated lactate: Suspect this was secondary to hypotension (patient
   was not hypotensive in office visit, but unclear what BP has been over
   last few weeks) with hypoperfusion. Abdominal examination is benign and
   not supportive of mesenteric ischemia (no apparent tenderness or
   guarding on examination). Serial lactates have returned to [**Location 201**]
   limits.
   - Given still unclear etiology of [**Last Name (LF) **], [**First Name3 (LF) 124**] wean off pressors, and as
   long as mental status is at baseline, will tolerate lower BP and
   re-check lactate after off pressors to see if rising.
   .
   #) Elevated INR: INR in ED was [**8-4**], suspect again secondary to poor
   nutritional status and lack of vitamin K consumption. Patient received
   5 mg IV vitamin K in ED, with normalization of INR to <2.
   - Will discuss with family goals of care, will need to start heparin
   gtt if wish to continue aggressive treatment.
   #) Atrial fibrillation: Patient listed as on sotalol and coumadin as
   outpatient. Currently appears to be in sinus, rate in 100's.
   - Will discuss with family goals of care, and start hep gtt for
   anticoagulation if desired; sotalol once able to give PO medications.
   .
   #) Leukocytosis: Could be secondary to occult infection. Work-up as
   noted above, including cultures, transthoracic echo (no vegetations),
   KUB to look for abdominal pathology.
   .
   #) Seizure disorder: Continue home medications, unable to check level
   of Depakote here and trileptal is send out. Giving IV valproate while
   here in ICU
   .
   #) Hypothyroidism: TSH/FT4 within normal limits. Continue home
   supplementation, but changing dose to IV ([**11-25**] of PO dose).
   .
   #) GERD: Continuing PPI.
   .
   #) FEN: Sips, IVF. Nutrition consult appreciated.
   .
   #) PPx: SQ heparin until decision made re: heparin gtt, PPI, bowel
   regimen if needed (would need to be PR given not taking PO
   .
   #) Code: Full per ED discussion with patient's HCP, will further
   discuss during meetingn today
   .
   #) Communication:
   Brother:
   [**Name (NI) 82**] [**Name (NI) 3637**] is HCP [**Telephone/Fax (1) 3638**]; work [**Telephone/Fax (1) 3639**] (? home)
   .
   #) Access: Right femoral central line placed in ED. Would ideally like
   to change this out, but would need to consciously sedate patient to
   place subclavian or IJ or PICC; not able to get additional peripheral
   IV
s. Also great concern that patient would pull these out, even with
   restraints as she has repeatedly pulled off leads for telemetry
   monitoring. Will need to discuss further with family and further
   line/PICC per that discussion.
   .
   #) Dispo: ICU until above issues improved (cannot be called out until
   off pressors)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-11-25 09:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Met with patient's brother yesterday to discuss some [**Name (NI) 3707**].  Informed him
   that patient's FTT is likely due to dementia and that she will probably
   will not be able to feed herself.  He felt strongly that she would not
   want a PEG tube but he wanted to try to help feel her himself.
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-11-24**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-11-25**] 07:30 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-11-24**] 10:17 AM
   Heparin Sodium (Prophylaxis) - [**2140-11-24**] 08:00 PM
   Other medications:
   folate, MVI, Thiamine, Trileptal, Levothyroxine, protonix, RISS,
   Valproate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-25**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 112 (80 - 121) bpm
   BP: 115/73(82) {74/40(51) - 115/84(90)} mmHg
   RR: 14 (0 - 29) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  7,148 mL
                                                                  1,848 mL
   PO:
             TF:
                                                                     10 mL
   IVF:
                                                                  7,138 mL
                                                                  1,848 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    375 mL
   Urine:
                                                                  1,210 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,938 mL
                                                                  1,473 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Moaning, baseline MS
   [**Name13 (STitle) **], Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   Irregular Irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing, R
   femoral line in place
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   303 K/uL
   91 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   23 mg/dL
   117 mEq/L
   147 mEq/L
   32.2 %
   10.1 K/uL
        [image002.jpg]
                            [**2140-11-23**]  04:58 AM
                            [**2140-11-23**]  09:05 AM
                            [**2140-11-23**]  03:03 PM
                            [**2140-11-23**]  03:18 PM
                            [**2140-11-23**]  03:42 PM
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
   WBC
   12.0
   13.7
   10.1
   Hct
   0
   36
   33.0
   32.9
   32.2
   Plt
   [**Telephone/Fax (3) 3700**]
   Cr
   2.4
   2.3
   2.1
   2.0
   1.7
   1.2
   1.2
   1.1
   TropT
   0.29
   Glucose
   170
   160
   189
   192
   [**Telephone/Fax (2) 3701**]1
   Other labs: PT / PTT / INR:14.5/31.0/1.3, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:20/41, Alk Phos / T Bili:58/0.7,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.1 g/dL, LDH:365 IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:1.4
   mg/dL
   Microbiology: UCx:  No Growth
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's p/w profound dehydration.
   Hypotension:  Still requiring some low dose pressors.  Unclear if
   source is all from dehydration or if a second process is present.  Poor
   cardiac output from severe MR may be playing a role although exam not
   consistent with this.  Also though her RV function was normal she has
   mod pHTN so perhaps overresuscitated and RV distension. No clear source
   of sepsis.  Unclear if non-invasive BP's are accurate as she is alert
   and often times yelling with SBP's of 60's.
     -Her behavior prohibits A-line placement at this time.
     -As urine culture is negative, will d/c Zosyn
     -Check [**Last Name (un) **] stim
     -Wean pressors as able
    Hypernatremia:  Hypovolemic.  Improving
     -Continue with free water in D5 1/2NS drip.
   Failure to Thrive:  Will continue to discuss overall [**Last Name (un) 3707**] with patient's
   brother.  If no plans for PEG tube, transitioning to comfort care may
   be appropriate
     -Continue vitamin support
     -Continue hydration
    Elevated cardiac Biomarkers:  Appears stress related.  No further
   intervention
    AFib:  Currently off of sotalol and coumadin as she is not taking
   PO's.  If overall plan is for continued aggressive care, will
   heparinize
   Hypothyroid:  Will switch to IV levothyroxine if goals of care will be
   aggressive.
    Access:  Currently has femoral line.  Given her behavior, placing an
   IJ vs SC line would be challenging and there is concern that she may
   pull it out.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2140-11-26 08:31:00 Physician Resident Progress Note
Chief Complaint: admitted with FTT, hypotension
   24 Hour Events:
   -- passed CortStim test yesterday
   -- was taken off all antibiotics, remained afebrile
   -- had meeting with sister-in-law about goals of care, PICC line/PEG
   waiting to hear from brother regarding a decision (they are still
   undecided about how to proceed)
   -- has been slightly tachycardic overnight with HR 110-120
s, occ
   130
s; BP stable during higher rates
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-11-24**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-11-25**] 07:30 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: NA
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain due to MR/MS
   Flowsheet Data as of  [**2140-11-26**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.4
   HR: 102 (94 - 116) bpm
   BP: 87/46(57) {83/40(49) - 131/97(106)} mmHg
   RR: 9 (9 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,308 mL
                                                                  1,069 mL
   PO:
             TF:
   IVF:
                                                                  4,308 mL
                                                                  1,069 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    770 mL
   Urine:
                                                                  1,030 mL
                                                                    620 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                  3,278 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (Murmur: Systolic), V/VI SEM, heard throughout with
   radiation to back
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), unable to cooperate with
   lung exam due to MS/MR
   Abdominal: Soft, Bowel sounds present, Tender: ? more tender than
   yesterday; pt moaning on exam but unable to answer yes/no to pain;
   unclear whether specific response to abd or just exam in general
   Extremities: Right: 2+, Left: 2+, hands 2+ b/l; same as yesterday
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   222 K/uL
   10.0 g/dL
   116 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.1 mEq/L
   12 mg/dL
   114 mEq/L
   142 mEq/L
   28.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2140-11-23**]  03:03 PM
                            [**2140-11-23**]  03:18 PM
                            [**2140-11-23**]  03:42 PM
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
   WBC
   12.0
   13.7
   10.1
   8.3
   Hct
   0
   36
   33.0
   32.9
   32.2
   28.6
   Plt
   [**Telephone/Fax (3) 3732**]22
   Cr
   2.1
   2.0
   1.7
   1.2
   1.2
   1.1
   1.1
   0.9
   Glucose
   189
   192
   212
   802
   171
   91
   137
   116
   Other labs: PT / PTT / INR:13.9/30.2/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:20/41, Alk Phos / T Bili:58/0.7,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.1 g/dL, LDH:365 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:1.5
   mg/dL
   Assessment and Plan
   Patient is a 52 year old female with Down's syndrome, Alzhemier
   dementia, atrial fibrillation and hypothyroidism who presented with
   failure to thrive, decreased PO intake, elevated lactate,
   hypernatremia, hypotension, and supratherapeutic INR.  Overall has been
   improving with IVF, though remains pressor-dependent and with no PO
   intake.
   #) Hypotension: Etiology still remains unclear.  Pt profoundly volume
   depleted on admission, though has been recuscitated and remains
   levophed-dependent.  Cardiac echocardiogram showed severe MR, but
   function was normal, without pericardial effusion; severe MR could be
   contributing to hypotension, but again seems less likely that this is
   sole cause.   There is no evidence of sepsis/infection with improving
   WBC, afebrile state, nothing localizing and no positive Cx data; LP
   deferred for now given MS appears to be at (recent) baseline.  Adrenal
   insufficiency as primary cause of hypotension is less likely w/o risk
   factors; had a random cortisol level that was 20.4, though has not had
   CortStim test.  Thyroid studies were normal earlier this admission.
   -- given negative cx data (UCx, BCx x 2); discontinued  Zosyn on [**11-25**]
   and remained afebrile; WBC continues to improve.
   -- will check manual BP to ensure correlating with automatic read
   -- cont D5 1/2NS for maintenance at 100 cc/hr
   #) Atrial fibrillation: Patient listed as on sotalol and coumadin as
   outpatient. Currently in afib with HR 110- 120
s, occ 130
s even while
   at rest
   -- Will discuss with family goals of care, and start hep gtt & coumadin
   for anticoagulation if desired; sotalol once able to give PO
   medications.
   -- will consider adding amio or dig if HR more persistently in the
   130
s or becomes HD unstable
   #) Failure to thrive/poor PO intake: Per OMR notes and office visit
   note detailing concerns of her care-givers, this has been an ongoing
   issue for months that appears to have acutely worsened. There appears
   to be at least some behavioral component in setting of possibly
   worsening Alzheimer's dementia.   Given family
s report of sharp
   decline 3-4 months ago, would also consider vascular dementia as
   contributing to (seemingly) abrupt decline.  Given question of acutely
   worsening dementia, checked vitamin B12 (was high); no known risk
   factors (not sexually active) for syphilis, TSH WNL, working on
   correcting other metabolic abnormalities that could be contributing to
   dementia.  Speech and swallow evaluation was completed (difficult to
   assess given patient
s lack of cooperation).  Had fam htg with brother,
   [**Name (NI) 1384**], on [**2140-11-24**]; he is still deciding overall goals of care and whether
   to provide a PEG tube for feeding.
   -- awaiting family decision on PEG tube and PICC line, broad goals of
   care
   -- Working up infectious etiology as above; thyroid studies normal
   -- Consider psychiatry/neurobehavoiral evaluation once further
   stabilized or as outpatient for further recommendations; might benefit
   from seeing Dr. [**First Name8 (NamePattern2) 1012**] [**Last Name (NamePattern1) **] in geriatrics who specializes in early
   onset AD r/t Down
   -- if family decides against PEG (and thus PICC), will consider
   palliative care c/s for possible hospice placement; in addition, will
   do social work consult.
   -- Cont. folate, MV, thiamine supplementation
   -- Low dose haldol or ativan if needed for help with agitation; would
   give ativan 0.25 mg IV given prolonged effect of the 1 mg dose on
   [**2140-11-24**].
   #) Hypernatremia: Suspect hypovolemic given history, exam, also not
   helped by patient continuing to take home dose of lasix.  Improving
   while on IVF supplementation.  Sig improved; Na 142 on [**11-26**]
   -- cont IVF maintenance fluids with D5-1/2NS unless Na falls below 140;
   would then switch to NS.
   #) Elevated INR: INR in ED was [**8-4**], suspect again secondary to poor
   nutritional status and lack of vitamin K consumption. Patient received
   5 mg IV vitamin K in ED, with normalization of INR to <2.  INR 1.4 on
   [**2140-11-25**].
   -- Will discuss with family goals of care, will need to start heparin
   gtt if wish to continue aggressive treatment.
   -- Continue SQH for PPX for now
   #) Acute renal failure:  resolved.  Likely prerenal; improved to 1.1
   from 3.4 on admission.  Baseline creatinine from [**7-/2140**] was around
   1.0.   UCx negative.
   -- cont maintenance fluids.
   #) Leukocytosis: resolved
   #) Seizure disorder: unable to take home meds depakote and trileptal
   b/c PO.
   -- Giving IV valproate while here in ICU
   -- unable to take PO trileptal
   #) Hypothyroidism: TSH/FT4 within normal limits. Continue home
   supplementation, but changing dose to IV ([**11-25**] of PO dose).
   -- cont levothyroxine 37.5 mg IV QD
   #) GERD: Continuing PPI IV as unable to take PO
    #) FEN: Sips as nursing feels comfortable, IVF.
   #) PPx: SQ heparin until decision made re: heparin gtt & coumadin;IV
   PPI
   #) Code: Full per ED discussion with patient's HCP
   #) Communication:
   Brother: [**Name (NI) 82**] [**Name (NI) 3637**] is HCP [**Telephone/Fax (1) 3638**]; work [**Telephone/Fax (1) 3639**] (? home)
   #) Access: Right femoral central line placed in ED. Would ideally like
   to change this out, but would need to consciously sedate patient to
   place subclavian or IJ or PICC; not able to get additional peripheral
   IV
s. Also great concern that patient would pull these out, even with
   restraints as she has repeatedly pulled off leads for telemetry
   monitoring. Will discuss further with family on [**2140-11-25**]; will need
   conscious sedation for the procedure.
   ICU Care
   Nutrition: see above
   Glycemic Control:  no prior DM dx; has has glucose in low to mid-100
   will d/c SSI
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT:  SQH
   Stress ulcer: IV PPI
   VAP:  NA
   Communication:  Comments: waiting to hear back form family about GOC
   Code status: Full code
   Disposition: to remain in ICU until stable and off pressors; otherwise,
   stable to be called out from the ICU

2140-11-26 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remained in AFib yesterday with occasional RVR.
   Antibiotics D/c'd yesterday.
   Remains on pressors, although requiring less.
   Still refusing po meds.
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-11-24**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-11-25**] 07:30 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   MVI, folate, Thiamin, Valproate, Levothyroxine IV, HSQ, RISS, Lamictal
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-26**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.4
   HR: 111 (94 - 116) bpm
   BP: 98/63(69) {67/40(49) - 131/97(106)} mmHg
   RR: 14 (9 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,308 mL
                                                                  1,407 mL
   PO:
             TF:
   IVF:
                                                                  4,308 mL
                                                                  1,407 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    855 mL
   Urine:
                                                                  1,030 mL
                                                                    705 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                  3,278 mL
                                                                    552 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, More awake today
   Head, Ears, Nose, Throat: Normocephalic, MM dry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), Limited cooperation
   with exam
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Moans during
   exam
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   222 K/uL
   116 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.1 mEq/L
   12 mg/dL
   114 mEq/L
   142 mEq/L
   28.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2140-11-23**]  03:03 PM
                            [**2140-11-23**]  03:18 PM
                            [**2140-11-23**]  03:42 PM
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
   WBC
   12.0
   13.7
   10.1
   8.3
   Hct
   0
   36
   33.0
   32.9
   32.2
   28.6
   Plt
   [**Telephone/Fax (3) 3732**]22
   Cr
   2.1
   2.0
   1.7
   1.2
   1.2
   1.1
   1.1
   0.9
   Glucose
   189
   192
   212
   802
   171
   91
   137
   116
   Other labs: PT / PTT / INR:13.9/30.2/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:20/41, Alk Phos / T Bili:58/0.7,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.1 g/dL, LDH:365 IU/L, Ca++:7.3 mg/dL, Mg++:1.6 mg/dL, PO4:1.5
   mg/dL
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's p/w profound dehydration.
   Hypotension:  Still requiring some low dose pressors.  Unclear if
   source is all from dehydration or if a second process is present.
   Seems distributive shock. Poor cardiac output from severe MR may be
   playing a role although exam not consistent with this.  Also though her
   RV function was normal she has mod pHTN so perhaps overresuscitated and
   RV distension. No clear source of sepsis.  Unclear if non-invasive BP's
   are accurate as she is alert and often yelling with SBP's of 60's.
   [**Last Name (un) 567**] stim normal.
      -Her behavior prohibits A-line placement at this time.
      -Wean pressors as able
    Hypernatremia:  Hypovolemic.  Resolved
     -Continue with D5 1/2 NS maintenance fluids
    Failure to Thrive:  Spoke with patient's sister-in-law at length
   yesterday.  She and pt's brother will meet with us again today
   regarding ultimate GOC.
      -Continue vitamin support
      -Continue hydration
    AFib:  Currently off of sotalol and coumadin as she is not taking
   PO's.  Having some RVR.
      -Will assess HR as we wean down levophed
      -If RVR is persistent problem, consider amio load.
    Hypothyroid:  Now on IV replacement.
   Access:  Currently has femoral line.  Given her behavior, placing an IJ
   vs SC line would be challenging and there is concern that she may pull
   it out.  [**Month (only) 8**] need PICC with conscious sedation.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2140-11-27 08:28:00 Physician Resident Progress Note
Chief Complaint: dehydration
   ftt
   hypernatremia
   24 Hour Events:
   - fam didn't come in for discussion
   - manually checked BP; matched automatic [**Location (un) 118**]
   - weaned off levophed; SBP remained in 100's, MAPs > 60-65 --. went
   down when she was sleeping
   - tachy to 110-120's, occ 130's; as night went on even higher; started
   on IV amio
   - gave ativan 0.5 mg IV x 1 at 7:30 pm
   Patient unable to provide history: Encephalopathy
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2140-11-24**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2140-11-25**] 07:30 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-11-26**] 07:40 PM
   Lorazepam (Ativan) - [**2140-11-26**] 07:40 PM
   Other medications:
   See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-27**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 93 (92 - 127) bpm
   BP: 95/67(73) {79/37(51) - 109/76(82)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,961 mL
                                                                  1,105 mL
   PO:
             TF:
   IVF:
                                                                  3,961 mL
                                                                  1,105 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    500 mL
   Urine:
                                                                  1,315 mL
                                                                    250 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  2,496 mL
                                                                    607 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin, edematous
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdomen: soft, pt cries out but can be distracted
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, not oriented, yelling out periodically
   Labs / Radiology
   188 K/uL
   9.8 g/dL
   126 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.0 mEq/L
   7 mg/dL
   110 mEq/L
   139 mEq/L
   28.0 %
   7.0 K/uL
        [image002.jpg]
                            [**2140-11-23**]  03:18 PM
                            [**2140-11-23**]  03:42 PM
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
   WBC
   12.0
   13.7
   10.1
   8.3
   7.0
   Hct
   0
   36
   33.0
   32.9
   32.2
   28.6
   28.0
   Plt
   [**Telephone/Fax (3) 3732**]22
   188
   Cr
   2.0
   1.7
   1.2
   1.2
   1.1
   1.1
   0.9
   0.7
   Glucose
   192
   212
   802
   171
   91
   137
   116
   126
   Other labs: PT / PTT / INR:13.9/30.2/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.8 g/dL, LDH:365 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0
   mg/dL
   Microbiology: Blood 12/30 x 2 - ngtd
   Urine [**11-23**] - ng (final)
   Assessment and Plan
   Patient is a 52 year old female with Down's syndrome, Alzhemier
   dementia, atrial fibrillation and hypothyroidism who presented with
   failure to thrive, decreased PO intake, elevated lactate,
   hypernatremia, hypotension, and supratherapeutic INR.  Overall has been
   improving with IVF, though remains pressor-dependent and with no PO
   intake.
   #) Hypotension: Etiology still remains unclear.  Pt profoundly volume
   depleted on admission, though has been recuscitated.  Was off pressors
   during day, but had mild hypotensio o/n and levophed put back on.
   Cardiac echocardiogram showed severe MR, but function was normal,
   without pericardial effusion; severe MR could be contributing to
   hypotension, but again seems less likely that this is sole cause.
   There is no evidence of sepsis/infection with improving WBC, afebrile
   state, nothing localizing and no positive Cx data; LP deferred for now
   given MS appears to be at (recent) baseline.  Had negative CortStim
   test.  Thyroid studies were normal earlier this admission.
   -- given negative cx data (UCx, BCx x 2); discontinued  Zosyn on [**11-25**]
   and remained afebrile; WBC normalized
   -- Manual BP to ensure correlates with automatic read
   -- cont D5 1/2NS for maintenance at 100 cc/hr
   -- wean levophed as tolerated
   #) Atrial fibrillation: Patient listed as on sotalol and coumadin as
   outpatient. Currently in afib , on [**2140-11-26**], had  HR 110- 120
s, occ
   130
s even while at rest
   --loading amiodarone IV; cannot give oral at this time.
   -- Ongoing discussion with family re:  goals of care, and start hep gtt
   & coumadin for anticoagulation if plans for feeding tube; sotalol if
   ever able to give PO medications.
   #) Failure to thrive/poor PO intake: Per OMR notes and office visit
   note detailing concerns of her care-givers, this has been an ongoing
   issue for months that appears to have acutely worsened. There appears
   to be at least some behavioral component in setting of possibly
   worsening Alzheimer's dementia.   Given family
s report of sharp
   decline 3-4 months ago, would also consider vascular dementia as
   contributing to (seemingly) abrupt decline.  Given question of acutely
   worsening dementia, checked vitamin B12 (was high); no known risk
   factors (not sexually active) for syphilis, TSH WNL, other  metabolic
   abnormalities could corrected.  Speech and swallow evaluation was
   completed (difficult to assess given patient
s lack of cooperation).
   Had fam htg with brother, [**Name (NI) 1384**], and his wife; he is still deciding
   overall goals of care and whether to provide a PEG tube for feeding.
   -- awaiting family decision on PEG tube and PICC line, broad goals of
   care
   -- Working up infectious etiology as above- negative w/u to date
   --thyroid studies normal
   -- Consider psychiatry/neurobehavoiral evaluation once further
   stabilized or as outpatient for further recommendations; might benefit
   from seeing Dr. [**First Name8 (NamePattern2) 1012**] [**Last Name (NamePattern1) **] in geriatrics who specializes in early
   onset AD r/t Down
   -- if family decides against PEG (and thus PICC), will consider
   palliative care c/s for possible hospice placement; in addition, will
   do social work consult.
   -- Cont. folate, MV, thiamine supplementation via banana bag daily
   -- Low dose haldol or ativan if needed for help with agitation; would
   give ativan 0.25 or 0.5 mg IV given prolonged effect of the 1 mg dose
   on [**2140-11-24**].
   #) Hypernatremia: Suspect hypovolemic given history, exam, also not
   helped by patient continuing to take home dose of lasix.  Resolved with
   hydration,  Na normalized
   -- cont IVF maintenance fluids with D5-1/2NS
   #) Elevated INR: INR in ED was [**8-4**], suspect again secondary to poor
   nutritional status and lack of vitamin K consumption. Patient received
   5 mg IV vitamin K in ED, with normalization of INR t.
   -- Will discuss with family goals of care, will need to start heparin
   gtt if wish to continue aggressive treatment.
   -- Continue SQH for PPX for now
   #) Acute renal failure:  resolved.  Likely prerenal; improved with
   fluids.  Baseline creatinine from [**7-/2140**] was less than 1.0.   UCx
   negative.
   -- cont maintenance fluids.
   #) Leukocytosis: resolved
   #) Seizure disorder: unable to take home meds depakote and trileptal
   b/c PO.
   -- Giving IV valproate while here in ICU
   -- unable to take PO trileptal
   #) Hypothyroidism: TSH/FT4 within normal limits. Continue home
   supplementation, but changing dose to IV ([**11-25**] of PO dose).
   -- cont levothyroxine 37.5 mg IV QD
   #) GERD: Continuing PPI IV as unable to take PO
    #) FEN: Sips as nursing feels comfortable, IVF.
   #) PPx: SQ heparin until decision made re: heparin gtt & coumadin;IV
   PPI
   #) Code: Full per discussion with patient's HCP
   #) Communication:
   Brother: [**Name (NI) 82**] [**Name (NI) 3637**] is HCP [**Telephone/Fax (1) 3638**]; work [**Telephone/Fax (1) 3639**] (? home)
   #) Access: Right femoral central line placed in ED. Would ideally like
   to change this out, but would need to consciously sedate patient to
   place subclavian or IJ or PICC; not able to get additional peripheral
   IV
s. Also great concern that patient would pull these out, even with
   restraints as she has repeatedly pulled off leads for telemetry
   monitoring. Will discuss further with family; will need conscious
   sedation for the procedure.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2140-11-27 10:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off pressors most of the day, went back on for some mild hypotension
   overnight.
   Started on amio for AF with RVR.
   Still refusing PO meds
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2140-11-25**] 07:30 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-11-26**] 07:40 PM
   Lorazepam (Ativan) - [**2140-11-26**] 07:40 PM
   Other medications:
   Levothyroxine IV, folate, MVI, thiamine, Trileptal, valproate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-27**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.3
C (95.6
   HR: 95 (92 - 127) bpm
   BP: 93/73(77) {79/37(51) - 108/73(91)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,961 mL
                                                                  1,483 mL
   PO:
             TF:
   IVF:
                                                                  3,961 mL
                                                                  1,483 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    548 mL
   Urine:
                                                                  1,315 mL
                                                                    298 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  2,496 mL
                                                                    935 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Agitated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: R femoral line.
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   188 K/uL
   126 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.0 mEq/L
   7 mg/dL
   110 mEq/L
   139 mEq/L
   28.0 %
   7.0 K/uL
        [image002.jpg]
                            [**2140-11-23**]  03:18 PM
                            [**2140-11-23**]  03:42 PM
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
   WBC
   12.0
   13.7
   10.1
   8.3
   7.0
   Hct
   0
   36
   33.0
   32.9
   32.2
   28.6
   28.0
   Plt
   [**Telephone/Fax (3) 3732**]22
   188
   Cr
   2.0
   1.7
   1.2
   1.2
   1.1
   1.1
   0.9
   0.7
   Glucose
   192
   212
   802
   171
   91
   137
   116
   126
   Other labs: PT / PTT / INR:13.9/30.2/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.8 g/dL, LDH:365 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0
   mg/dL
   Microbiology: BCx: NGTD
   UCx: NGTD
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's p/w profound dehydration.
   Hypotension:  Required some low dose pressors overnight but can
   hopefully come off today.  No clear source of sepsis.  Unclear if
   non-invasive BP's are accurate as she is alert and often yelling with
   SBP's of 60's.  [**Last Name (un) 567**] stim normal.
     -Her behavior prohibits A-line placement at this time.
     -Wean pressors as able
   Hypernatremia:  Hypovolemic.  Resolved
     -Continue with D5 1/2 NS maintenance fluids
   Failure to Thrive:  Spoke with patient's sister-in-law at length
   [**Name (NI) 1786**].  She and pt's brother will meet with us again today regarding
   ultimate GOC.
   -Continue vitamin support
   -Continue hydration
   AFib:  Currently off of sotalol and coumadin as she is not taking
   PO's.  Having some RVR requiring amio overnight with improved rates.
   -Will assess HR as we wean down levophed
   -Continue amio load
   Hypothyroid:  Now on IV replacement.
   Access:  Currently has femoral line.  Given her behavior, placing an IJ
   vs SC line would be challenging and there is concern that she may pull
   it out.  [**Month (only) 8**] need PICC with conscious sedation.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2140-11-28 07:30:00 Physician Resident Progress Note
Chief Complaint: FTT
   Hypotension
   24 Hour Events:
   - family still undecided about feeding tube, want Dr. [**Last Name (STitle) 876**] (her
   cardiologist) to weigh in [**2139-11-28**]
   - continues on amiodarone gtt--> calculated that she needs to load for
   9.25 days from [**2140-11-26**]
   - weaned off levophed, but put backon overnight
   History obtained from Family / Friend
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2140-11-25**] 07:30 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-11-27**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-28**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 89 (89 - 100) bpm
   BP: 93/60(67) {81/44(53) - 106/85(91)} mmHg
   RR: 16 (0 - 26) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                  4,108 mL
                                                                  1,829 mL
   PO:
             TF:
   IVF:
                                                                  4,108 mL
                                                                  1,829 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    295 mL
   Urine:
                                                                    490 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,368 mL
                                                                  1,534 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   148 K/uL
   8.9 g/dL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   5 mg/dL
   110 mEq/L
   136 mEq/L
   25.3 %
   6.2 K/uL
        [image002.jpg]
                            [**2140-11-23**]  03:42 PM
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
                             [**2140-11-28**]  03:37 AM
   WBC
   12.0
   13.7
   10.1
   8.3
   7.0
   6.2
   Hct
   36
   33.0
   32.9
   32.2
   28.6
   28.0
   25.3
   Plt
   [**Telephone/Fax (3) 3732**]22
   188
   148
   Cr
   2.0
   1.7
   1.2
   1.2
   1.1
   1.1
   0.9
   0.7
   0.7
   Glucose
   192
   212
   802
   171
   91
   137
   116
   126
   113
   Other labs: PT / PTT / INR:13.9/30.2/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.8 g/dL, LDH:365 IU/L, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.0
   mg/dL
   Imaging: No new
   Microbiology: Blood 12/30: NGTD
   Urine [**11-23**]: NGTD
   Assessment and Plan
   Patient is a 52 year old female with Down's syndrome, Alzhemier
   dementia, atrial fibrillation and hypothyroidism who presented with
   failure to thrive, decreased PO intake, elevated lactate,
   hypernatremia, hypotension, and supratherapeutic INR.  Overall has been
   improving with IVF, though remains pressor-dependent and with no PO
   intake.
   #) Hypotension: Etiology still remains unclear.  Pt profoundly volume
   depleted on admission, though has been recuscitated.  Was off pressors
   during day, but had mild hypotensio o/n and levophed put back on.
   Cardiac echocardiogram showed severe MR, but function was normal,
   without pericardial effusion; severe MR could be contributing to
   hypotension, but again seems less likely that this is sole cause.
   There is no evidence of sepsis/infection with improving WBC, afebrile
   state, nothing localizing and no positive Cx data; LP deferred for now
   given MS appears to be at (recent) baseline.  Had negative CortStim
   test.  Thyroid studies were normal earlier this admission.
   -- given negative cx data (UCx, BCx x 2); discontinued  Zosyn on [**11-25**]
   and remained afebrile; WBC normalized
   -- Manual BP to ensure correlates with automatic read
   -- cont D5 1/2NS for maintenance at 100 cc/hr
   -- wean levophed as tolerated
   #) Atrial fibrillation: Patient listed as on sotalol and coumadin as
   outpatient. Currently in afib , on [**2140-11-26**], had  HR 110- 120
s, occ
   130
s even while at rest
   --loading amiodarone IV x 9 days since1/3/09; cannot give oral at this
   time.
   -- Ongoing discussion with family re:  goals of care, and start hep gtt
   & coumadin for anticoagulation if plans for feeding tube; sotalol if
   ever able to give PO medications.
   #) Failure to thrive/poor PO intake: Per OMR notes and office visit
   note detailing concerns of her care-givers, this has been an ongoing
   issue for months that appears to have acutely worsened. There appears
   to be at least some behavioral component in setting of possibly
   worsening Alzheimer's dementia.   Given family
s report of sharp
   decline 3-4 months ago, would also consider vascular dementia as
   contributing to (seemingly) abrupt decline.  Given question of acutely
   worsening dementia, checked vitamin B12 (was high); no known risk
   factors (not sexually active) for syphilis, TSH WNL, other  metabolic
   abnormalities were corrected.  Speech and swallow evaluation was
   completed (difficult to assess given patient
s lack of cooperation).
   Had fam htg with brother, [**Name (NI) 1384**], and his wife; he is still deciding
   overall goals of care and whether to provide a PEG tube for feeding.
   -- awaiting family decision on PEG tube broad goals of care
   --will need PICC for accesss; need to remove fem line
   -- Working up infectious etiology as above- negative w/u to date
   --thyroid studies normal
   -- Consider psychiatry/neurobehavoiral evaluation once further
   stabilized or as outpatient for further recommendations; might benefit
   from seeing Dr. [**First Name8 (NamePattern2) 1012**] [**Last Name (NamePattern1) **] in geriatrics who specializes in early
   onset AD r/t Down
   -- if family decides against PEG will consider palliative care c/s for
   possible hospice placement; in addition, will do social work consult.
   -- Cont. folate, MV, thiamine supplementation via banana bag daily
   -- Low dose haldol or ativan if needed for help with agitation; would
   give ativan 0.25 or 0.5 mg IV given prolonged effect of the 1 mg dose
   on [**2140-11-24**].
   #) Hypernatremia: Suspect hypovolemic given history, exam, also not
   helped by patient continuing to take home dose of lasix.  Resolved with
   hydration,  Na normalized
   -- cont IVF maintenance fluids with D5-1/2NS
   #) Elevated INR: INR in ED was [**8-4**], suspect again secondary to poor
   nutritional status and lack of vitamin K consumption. Patient received
   5 mg IV vitamin K in ED, with normalization of INR t.
   -- Will discuss with family goals of care, will need to start heparin
   gtt if wish to continue aggressive treatment.
   -- Continue SQH for PPX for now
   #) Acute renal failure:  resolved.  Likely prerenal; improved with
   fluids.  Baseline creatinine from [**7-/2140**] was less than 1.0.   UCx
   negative.  Still poor urine output
   -- cont maintenance fluids.
   #) Leukocytosis: resolved
   #) Seizure disorder: unable to take home meds depakote and trileptal
   b/c PO.
   -- Giving IV valproate while here in ICU
   -- unable to take PO trileptal
   #) Hypothyroidism: TSH/FT4 within normal limits. Continue home
   supplementation, but changing dose to IV ([**11-25**] of PO dose).
   -- cont levothyroxine 37.5 mg IV QD
   #) GERD: Continuing PPI IV as unable to take PO
    #) FEN: Sips as nursing feels comfortable, IVF.
   #) PPx: SQ heparin until decision made re: heparin gtt & coumadin;IV
   PPI
   #) Code: Full per discussion with patient's HCP
   #) Communication:
   Brother: [**Name (NI) 82**] [**Name (NI) 3637**] is HCP [**Telephone/Fax (1) 3638**]; work [**Telephone/Fax (1) 3639**] (? home)
   #) Access: Right femoral central line placed in ED  Needs to be
   replaced.  Spoke to family about PICC and they understant this would
   need to be placed with sedation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2140-11-28 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Brother/Sister-in-law returned last night but wished to get input from
   patient's cardiologist before making decisions regarding feeding tube.
   Briefly on levophed overnight.
   Some bradycardia this morning without BP compromise.
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-11-27**] 09:07 PM
   Other medications:
   Valproate, HSQ, pantoprazole, levothyroxine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-28**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 96 (89 - 100) bpm
   BP: 108/61(74) {81/44(53) - 108/85(89)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,108 mL
                                                                  2,422 mL
   PO:
             TF:
   IVF:
                                                                  4,108 mL
                                                                  2,422 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    365 mL
   [**Year (4 digits) 3800**]:
                                                                    490 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,368 mL
                                                                  2,057 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Agitated
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Irreg
   Irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly, Diminished: at
   bases)
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   148 K/uL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.4 mEq/L
   5 mg/dL
   110 mEq/L
   136 mEq/L
   25.3 %
   6.2 K/uL
        [image002.jpg]
                            [**2140-11-23**]  03:42 PM
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
                             [**2140-11-28**]  03:37 AM
   WBC
   12.0
   13.7
   10.1
   8.3
   7.0
   6.2
   Hct
   36
   33.0
   32.9
   32.2
   28.6
   28.0
   25.3
   Plt
   [**Telephone/Fax (3) 3732**]22
   188
   148
   Cr
   2.0
   1.7
   1.2
   1.2
   1.1
   1.1
   0.9
   0.7
   0.7
   Glucose
   192
   212
   802
   171
   91
   137
   116
   126
   113
   Other labs: PT / PTT / INR:13.9/30.2/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.8 g/dL, LDH:365 IU/L, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.0
   mg/dL
   Imaging: No imaging today
   Microbiology: No recent micro
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's p/w profound dehydration.
   Hypotension:  Required some low dose pressors overnight but already off
   today.  No clear source of sepsis.  Unclear if non-invasive BP's are
   accurate as she is alert and often yelling with MAP's of 50's.  [**Last Name (un) 567**]
   stim normal.
     -Her behavior prohibits A-line placement at this time.
     -Will attempt to refrain from pressors and check lactates if MAP's
   decrease.  MS [**First Name (Titles) **] [**Last Name (Titles) **] output are challenging to use on this patient
   as surrogate measures of perfusion.
     -Will attempt diuresis today in case RV distension is contributing to
   a diminished CO/HoTN.
   Hypernatremia:  Hypovolemic.  Resolved
    Failure to Thrive:  Spoke with patient's sister-in-law at length
   [**Name (NI) 1786**].  She and pt's brother will meet with us again today regarding
   ultimate GOC.
     -Continue vitamin support
     -Continue hydration
    AFib:  Currently off of sotalol and coumadin as she is not taking
   PO's.  Having some RVR requiring amio overnight with improved rates.
     -Will assess HR as we wean down levophed
     -Continue amio load.  Check EKG for QTc.
    Hypothyroid:  Now on IV replacement.
   Access:  Currently has femoral line.  Given her behavior, placing an IJ
   vs SC line would be challenging and there is concern that she may pull
   it out.  Will try PICC with adjunctive ativan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2140-11-29 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PICC placed, but crosses midline, so scheduled for IR-guided
   fluoroscopic adjustment today
   - remained off levophed but pressures as low as 70s - asymptomatic. I
   refused to put her on pressors.
   - urine output marginal overnight
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-11-28**] 11:00 AM
   Lorazepam (Ativan) - [**2140-11-28**] 02:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-29**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96
   HR: 88 (87 - 98) bpm
   BP: 79/45(52) {61/40(48) - 136/78(90)} mmHg
   RR: 13 (9 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,991 mL
                                                                    162 mL
   PO:
             TF:
   IVF:
                                                                  3,991 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  3,140 mL
                                                                     90 mL
   Urine:
                                                                  3,140 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    851 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   157 K/uL
   9.2 g/dL
   67 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   4 mg/dL
   112 mEq/L
   138 mEq/L
   26.4 %
   4.7 K/uL
        [image002.jpg]
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
                             [**2140-11-28**]  03:37 AM
                             [**2140-11-29**]  04:05 AM
   WBC
   12.0
   13.7
   10.1
   8.3
   7.0
   6.2
   4.7
   Hct
   33.0
   32.9
   32.2
   28.6
   28.0
   25.3
   26.4
   Plt
   [**Telephone/Fax (3) 3732**]22
   188
   148
   157
   Cr
   2.0
   1.7
   1.2
   1.2
   1.1
   1.1
   0.9
   0.7
   0.7
   0.7
   Glucose
   192
   212
   802
   171
   91
   137
   116
   126
   113
   67
   Other labs: PT / PTT / INR:13.9/30.2/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.7 g/dL, LDH:365 IU/L, Ca++:6.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   Patient is a 52 year old female with Down's syndrome, Alzhemier
   dementia, atrial fibrillation and hypothyroidism who presented with
   failure to thrive, decreased PO intake, elevated lactate,
   hypernatremia, hypotension, and supratherapeutic INR.  Overall has been
   improving with IVF, though remains intermittently pressor-dependent and
   with no PO intake.
   #) Hypotension: Etiology still remains unclear.  Pt profoundly volume
   depleted on admission, though has been recuscitated.  Was off pressors
   during day, but had mild hypotensio o/n and levophed put back on.
   Cardiac echocardiogram showed severe MR, but function was normal,
   without pericardial effusion; severe MR could be contributing to
   hypotension, but again seems less likely that this is sole cause.
   There is no evidence of sepsis/infection with improving WBC, afebrile
   state, nothing localizing and no positive Cx data; LP deferred for now
   given MS appears to be at (recent) baseline.  Had negative CortStim
   test.  Thyroid studies were normal earlier this admission.
   -- given negative cx data (UCx, BCx x 2); discontinued  Zosyn on [**11-25**]
   and remained afebrile; WBC normalized
   -- Manual BP to ensure correlates with automatic read
   -- will trial lasix 20mg IV for diuresis to help reduce preload given
   severe MR
   -- wean levophed as tolerated
    #) Atrial fibrillation: Patient on sotalol and coumadin as outpatient.
   Currently in afib , on [**2140-11-26**], had  HR 110- 120
s, occ 130
s even while
   at rest
   --loading amiodarone IV x 9 days since1/3/09; cannot give oral at this
   time.
   -- Ongoing discussion with family re:  goals of care, and start hep gtt
   & coumadin for anticoagulation if plans for feeding tube; sotalol if
   ever able to give PO medications.
    #) Failure to thrive/poor PO intake: Per OMR notes and office visit
   note detailing concerns of her care-givers, this has been an ongoing
   issue for months that appears to have acutely worsened. There appears
   to be at least some behavioral component in setting of possibly
   worsening Alzheimer's dementia.   Given family
s report of sharp
   decline 3-4 months ago, would also consider vascular dementia as
   contributing to (seemingly) abrupt decline.  Given question of acutely
   worsening dementia, checked vitamin B12 (was high); no known risk
   factors (not sexually active) for syphilis, TSH WNL, other  metabolic
   abnormalities were corrected.  Speech and swallow evaluation was
   completed (difficult to assess given patient
s lack of cooperation).
   Had fam htg with brother, [**Name (NI) 1384**], and his wife; he is still deciding
   overall goals of care and whether to provide a PEG tube for feeding.
   -- awaiting family decision on PEG tube broad goals of care
   --will need PICC for accesss; need to remove fem line
   -- Working up infectious etiology as above- negative w/u to date
   --thyroid studies normal
   -- Consider psychiatry/neurobehavoiral evaluation once further
   stabilized or as outpatient for further recommendations; might benefit
   from seeing Dr. [**First Name8 (NamePattern2) 1012**] [**Last Name (NamePattern1) **] in geriatrics who specializes in early
   onset AD r/t Down
   -- if family decides against PEG will consider palliative care c/s for
   possible hospice placement; in addition, will do social work consult.
   -- Cont MV
   -- Low dose haldol or ativan if needed for help with agitation; would
   give ativan 0.25 or 0.5 mg IV given prolonged effect of the 1 mg dose
   on [**2140-11-24**].
   #) Hypernatremia: Suspect hypovolemic given history, exam, also not
   helped by patient continuing to take home dose of lasix.  Resolved with
   hydration,  Na normalized.
   #) Elevated INR: INR in ED was [**8-4**], suspect again secondary to poor
   nutritional status and lack of vitamin K consumption. Patient received
   5 mg IV vitamin K in ED, with normalization of INR.
   -- Will discuss with family goals of care, will need to start heparin
   gtt if wish to continue aggressive treatment.
   -- Continue SQH for PPX for now
   #) Acute renal failure:  resolved.  Likely prerenal; resolved with
   fluids.   UCx negative.  Still poor urine output
   -- trial of lasix to improve urine output
   #) Leukocytosis: resolved
   #) Seizure disorder: unable to take home meds depakote and trileptal
   b/c PO.
   -- Giving IV valproate while here in ICU; check level
   -- unable to take PO trileptal
   #) Hypothyroidism: TSH/FT4 within normal limits. Continue home
   supplementation, but changing dose to IV ([**11-25**] of PO dose).
   -- cont levothyroxine 37.5 mg IV QD
   #) GERD: Continuing PPI IV as unable to take PO
    #) FEN: Sips as nursing feels comfortable, IVF.
   #) PPx: SQ heparin until decision made re: heparin gtt & coumadin;IV
   PPI
    #) Code: Full per discussion with patient's HCP
   #) Communication: Brother: [**Name (NI) 82**] [**Name (NI) 3637**] is HCP [**Telephone/Fax (1) 3638**]; work
   [**Telephone/Fax (1) 3639**] (? home)
   #) Access: Right femoral central line placed in ED  Needs to be
   replaced.  Spoke to family about PICC and they understant this would
   need to be placed with sedation.   Will replace today with IV sedation
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   PICC Line - [**2140-11-28**] 10:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-11-29 11:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PICC line placed but crossed the midline so being readjused this AM.
   Remained off pressors overnight.  Diuresed a little yesterday.
   Still refusing po's.
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2140-11-28**] 02:35 PM
   Other medications:
   Trileptal, Valproate, Levothyroxine, HSQ, protonix, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-29**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 92 (87 - 98) bpm
   BP: 90/55(63) {61/40(48) - 136/78(90)} mmHg
   RR: 18 (9 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,992 mL
                                                                    455 mL
   PO:
             TF:
   IVF:
                                                                  3,992 mL
                                                                    455 mL
   Blood products:
   Total out:
                                                                  3,140 mL
                                                                    190 mL
   Urine:
                                                                  3,140 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    852 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, Moaning
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   Irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases B/L.)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   157 K/uL
   67 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   4 mg/dL
   112 mEq/L
   138 mEq/L
   26.4 %
   4.7 K/uL
        [image002.jpg]
                            [**2140-11-23**]  08:36 PM
                             [**2140-11-24**]  03:53 AM
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
                             [**2140-11-28**]  03:37 AM
                             [**2140-11-29**]  04:05 AM
   WBC
   12.0
   13.7
   10.1
   8.3
   7.0
   6.2
   4.7
   Hct
   33.0
   32.9
   32.2
   28.6
   28.0
   25.3
   26.4
   Plt
   [**Telephone/Fax (3) 3732**]22
   188
   148
   157
   Cr
   2.0
   1.7
   1.2
   1.2
   1.1
   1.1
   0.9
   0.7
   0.7
   0.7
   Glucose
   192
   212
   802
   171
   91
   137
   116
   126
   113
   67
   Other labs: PT / PTT / INR:13.9/30.2/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.7 g/dL, LDH:365 IU/L, Ca++:6.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's p/w profound dehydration.
   Hypotension:  Remained off pressors overnight.  Urine output improved
   compared to yesterday
     -Continue to monitor
    Failure to Thrive:  Spoke with patient's sister-in-law at length
   [**Name (NI) 1786**].  She and pt's brother will meet with us again today regarding
   ultimate GOC.  Most immediate question is regarding placement of
   feeding tube or not.
     -Continue hydration
     -Will try to obtain records from her neurologist: Dr. [**Last Name (STitle) 3815**]
   ([**Location (un) 1494**]) to determine what evaluation she has had thus far.
   Volume status:  Still grossly total volume overloaded
      -Diurese with goal -1L today if BP tolerates.
    AFib:  Currently off of sotalol and coumadin as she is not taking
   PO's.  Having some RVR requiring amio overnight with improved rates.
   QT=432ms
      -Continue amio load.
   MS
 Down
s syndrome with presumed Alzheimer
s dementia
   -          Attempting to obtain neuron records as above
    Hypothyroid:  Now on IV replacement.
   Access:  Once PICC repositioned, pull femoral line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2140-11-22**] 11:46 PM
   PICC Line - [**2140-11-28**] 10:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2140-11-30 06:05:00 Physician Resident Progress Note
Chief Complaint: admitted for FTT, hypotension
   24 Hour Events:
   -- PICC line repositioned by IR guiadance w/o complication
   -- family aggreed to PEG; surgery consulted and plan to do at some
   point on [**2140-11-30**] (she's as add-on and not yet scheduled)
   -- spoke with neurologist in [**Location (un) 1494**] (Dr. [**First Name8 (NamePattern2) 3833**] [**Last Name (NamePattern1) 3815**]); said AD dx
   was given within last year; has had behavioral changes (including
   ongoing regurgitation/emesis) for multiple years now, though.  Medical
   workup negative, though never had brain imaging (wanted to have MRI but
   didn't cooperate).  Also said her depakote/trileptal was not for
   seizure d/o, but for mood stabilization; she's only meant to be on
   depakote.  She has also been wondeirng whether the patient has been
   depressed and might benefit from trial of an antidepressant.
   -- had head CT complete out-patient dementia w/u; pre-lim read said no
   bleed or mass effect; ? old insult to frontal lobes b/l ("bifrontal
   subcortical hypodensities"); large ventricles
   -- touched base with SW, [**First Name8 (NamePattern2) 596**] [**Last Name (NamePattern1) 3834**] [**Numeric Identifier 3835**], to start working on
   placement
   -- also spoke with Dr. [**Last Name (STitle) 876**]; agrees w/ sending out on PO amio; plans to
   electrically cardiovert after 4-6 weeks of anticoagulation
   Patient unable to provide history: MS/MR
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-11-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-30**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 87 (87 - 135) bpm
   BP: 74/45(52) {74/34(48) - 104/62(189)} mmHg
   RR: 12 (12 - 53) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,467 mL
                                                                    700 mL
   PO:
             TF:
   IVF:
                                                                  1,467 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                    830 mL
   Urine:
                                                                  2,065 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -598 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, moaning frequently
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), with
   radiation ot the back
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 2+, Left: 2+, 2+ UE b/l
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, unable to follow simple commands due to baseline MS
   [**Name13 (STitle) 358**] / Radiology
   163 K/uL
   9.7 g/dL
   90 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.7 mEq/L
   3 mg/dL
   109 mEq/L
   139 mEq/L
   27.4 %
   5.1 K/uL
        [image002.jpg]
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
                             [**2140-11-28**]  03:37 AM
                             [**2140-11-29**]  04:05 AM
                             [**2140-11-29**]  04:35 PM
                             [**2140-11-30**]  02:27 AM
   WBC
   10.1
   8.3
   7.0
   6.2
   4.7
   5.1
   Hct
   32.2
   28.6
   28.0
   25.3
   26.4
   27.4
   Plt
   [**Telephone/Fax (3) 3836**]48
   157
   163
   Cr
   1.2
   1.2
   1.1
   1.1
   0.9
   0.7
   0.7
   0.7
   0.7
   Glucose
   [**Telephone/Fax (2) 3837**]7
   116
   126
   113
   67
   143
   90
   Other [**Telephone/Fax (2) **]: PT / PTT / INR:13.5/30.6/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.7 g/dL, LDH:365 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Fluid analysis / Other [**Telephone/Fax (2) **]: [**2140-11-30**] UA:
   negative LE, nitrtites,
   4 WBC
   21 RBC
   Few bacteria
   0 epis
   pH 5.5, SG 1.005
   Imaging: [**2140-11-29**] HEAD CT, Pre-lim report:
   Enlargement of the lateral, third and fourth ventricles, somewhat out
   of
   proportion to the degree of prominence of the cerebral sulci. Bifrontal
   subcortical hypodensities, without findings to suggest that this is an
   acute
   process.
   Microbiology: UA/UCx sent this am for pre-op, per surgery recs
   Assessment and Plan
   Patient is a 52 year old female with Down's syndrome, Alzhemier
   dementia, atrial fibrillation and hypothyroidism who presented with
   failure to thrive, decreased PO intake, elevated lactate,
   hypernatremia, hypotension, and supratherapeutic INR.  Overall has been
   improving with IVF, though remains intermittently hypotensive during
   sleep and with no PO intake
   #) FTT: medical w/u negative; has had as out-patient as well, which was
   negative.  Confirmed time course and diagnosis of dementia with pt
   neurologist.  Family wants to proceed with PEG.  No evidence of bleed
   on prelim Head CT read.  ? relevance of enlarged ventricles on imaging
   -- surgery plans to take to OR today (coags, UA done; recent CXR in
   computer)
   -- f/u final read of
   -- Neurologist recommended trial of antidepressant (e.g., Paxil or
   Remeron) once taking PO
[**Last Name (un) 3838**] CT
   #) Hypotension: remains off pressors; SBP dips to 80
s while sleeping,
   but no evidence of end organ damage.
    #) Atrial fibrillation: Patient on sotalol and coumadin as
   outpatient.  Earlier in week remained in afib , on [**2140-11-26**], had  HR 110-
   120
s, occ 130
s even while at rest.  Was loaded with amio IV with
   conversion to SR and HR < 100.
   -- cont IV amio; will convert to amio 400 mg TID PO once PEG can be
   used
   -- will discuss with surgery when heparin ggt can be started; will use
   as bridge to coumadin
   -- Dr. [**Last Name (STitle) 876**] plans to electrically cardiovert in [**2-27**] weeks once
   anticoagulated
   #) ? Seizure disorder, Meds for Mood Stabilization: clarified with
   neurologist that depakote is for mood stabilization.  She is not also
   on trileptal.
   -- canceled trileptal order (though wasn
t taking b/c was a PO med)
   -- Giving IV valproate while here in ICU; will convert back to home
   dose depakote once taking meds through PEG
   #) Hypothyroidism:
   -- cont levothyroxine 37.5 mg IV QD; convert back to PO home dose once
   taking meds by PEG
    #) GERD:
   -- Continuing PPI IV as unable to take PO
s; will convert when taking
   meds through PEG
    #) FEN:
   -- nutrition consult for feed recs once using PEG
   -- was on IVF overnight for maintenance
   #) Code: Full per discussion with patient's HCP
   #) Communication: Brother: [**Name (NI) 82**] [**Name (NI) 3637**] is HCP [**Telephone/Fax (1) 3638**]; work
   [**Telephone/Fax (1) 3639**] (? home)
   ICU Care
   Lines:
   PICC Line - [**2140-11-28**] 10:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU until PEG surgery ; [**Hospital 3839**] transfer to floor after
   that until using EPG ; will discuss need for IV heparin bridge vs.
   Lovenox upon discharge.
   CM contact[**Name (NI) **] to begin work on placement options.

2140-11-30 09:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Team discussed patient's case with her outpatient neurologist.  She
   confirmed that she had been diagnsosed with alzheimer's about one year
   ago and that she felt that her symptoms had been progressing over the
   past few months.
   Head CT done yesterday:  Bifrontal hypdensities and ventricular
   enlargement.
   Family requested PEG tube placement yesterday, surgery consulted.
   Remained off pressors for the last 36 hours.
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-11-30**] 12:00 AM
   Pantoprazole (Protonix) - [**2140-11-30**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2140-11-30**] 07:47 AM
   Other medications:
   Valproate, levotyroxine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-30**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.1
C (95.1
   HR: 87 (87 - 135) bpm
   BP: 82/55(62) {69/34(48) - 115/62(189)} mmHg
   RR: 15 (11 - 53) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,467 mL
                                                                    936 mL
   PO:
             TF:
   IVF:
                                                                  1,467 mL
                                                                    936 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                  1,460 mL
   Urine:
                                                                  2,065 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -598 mL
                                                                   -524 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Agitated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), Irreg
   Irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   163 K/uL
   90 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.7 mEq/L
   3 mg/dL
   109 mEq/L
   139 mEq/L
   27.4 %
   5.1 K/uL
        [image002.jpg]
                             [**2140-11-24**]  04:07 PM
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
                             [**2140-11-28**]  03:37 AM
                             [**2140-11-29**]  04:05 AM
                             [**2140-11-29**]  04:35 PM
                             [**2140-11-30**]  02:27 AM
   WBC
   10.1
   8.3
   7.0
   6.2
   4.7
   5.1
   Hct
   32.2
   28.6
   28.0
   25.3
   26.4
   27.4
   Plt
   [**Telephone/Fax (3) 3836**]48
   157
   163
   Cr
   1.2
   1.2
   1.1
   1.1
   0.9
   0.7
   0.7
   0.7
   0.7
   Glucose
   [**Telephone/Fax (2) 3837**]7
   116
   126
   113
   67
   143
   90
   Other labs: PT / PTT / INR:13.5/30.6/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.7 g/dL, LDH:365 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's p/w profound dehydration.
    Hypotension:  Remained off pressors for 36 hours.  Urine output
   improved compared to yesterday
     -Continue to monitor
    Failure to Thrive:  Likely [**12-26**] dementia.  Family requesting G tube.
     -Surgery consulted, she is an add-on today
     -Follow up official read of head CT.
     -Consider anti-depressant trial.
    Volume status:  Still grossly total volume overloaded
     -Diurese with goal -1L today if BP tolerates after G tube placed.
    AFib:  Currently off of sotalol and coumadin as she is not taking
   PO's.  Having some RVR requiring amio overnight with improved rates.
   QT=432ms
     -Continue amio load, will transition to PGT once tube is in and can
   be used
     -Start coumadin via G tube. Goal INR [**12-27**]
    MS
 Down
s syndrome with presumed Alzheimer
s dementia
    Hypothyroid:  Now on IV replacement, will change to PGT once able.
    Access:  PICC in place, femoral line now out.
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-11-28**] 10:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2140-12-01 07:18:00 Physician Resident Progress Note
Chief Complaint: Admitted with hypotension, FTT
   24 Hour Events:
 OR SENT - At [**2140-11-30**] 03:00 PM
   to OR for PEG placement, returned for PEG placement in ICU at bedside
   d/t incorrect equipment being sterilized and correct equip not
   available.
 PEG INSERTION - At [**2140-11-30**] 06:01 PM
   PEG done by general surgery and this RN at bedside, pt. given moderate
   sedation (1mg of Versed and 50mcg of Fentanyl) during the case.  Pt.
   tolerated well.
   - sedated with fentanyl/versed for procedure
   - lethargic 1-2 hours afterwards - BP 80s/30s
   - BPs came up to baseline 90s/40s
   - was in pain, gave morphine IV - BP held
   - changed meds to PO
   - started on warfarin/paxil
   - called out but no bed available yet
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-11-30**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2140-11-30**] 03:55 PM
   Midazolam (Versed) - [**2140-11-30**] 06:05 PM
   Furosemide (Lasix) - [**2140-11-30**] 08:34 PM
   Fentanyl - [**2140-11-30**] 08:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-1**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 96 (85 - 107) bpm
   BP: 84/48(57) {69/30(44) - 125/66(127)} mmHg
   RR: 14 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,499 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                  1,499 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    320 mL
   Urine:
                                                                  2,590 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,091 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), V/VI
   SEM with radiation to the back
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : , No(t) Absent : )
   Abdominal: Soft, Bowel sounds present, No(t) Tender:
   Extremities: Right: 2+, Left: 2+, [**11-25**]+ UEE b/l
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   186 K/uL
   10.3 g/dL
   61 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   2 mg/dL
   108 mEq/L
   141 mEq/L
   28.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
                             [**2140-11-28**]  03:37 AM
                             [**2140-11-29**]  04:05 AM
                             [**2140-11-29**]  04:35 PM
                             [**2140-11-30**]  02:27 AM
                             [**2140-12-1**]  02:06 AM
   WBC
   10.1
   8.3
   7.0
   6.2
   4.7
   5.1
   12.1
   Hct
   32.2
   28.6
   28.0
   25.3
   26.4
   27.4
   28.5
   Plt
   [**Telephone/Fax (3) 3836**]48
   157
   163
   186
   Cr
   1.2
   1.1
   1.1
   0.9
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   171
   91
   137
   116
   126
   113
   67
   143
   90
   61
   Other labs: PT / PTT / INR:13.5/30.6/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.7 g/dL, LDH:365 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Imaging: No new imaging overnight
   Microbiology: [**2140-11-30**] UCx (pre-op): NGTD
   Assessment and Plan
Patient is a 52 year old female with Down's syndrome, Alzhemier
   dementia, atrial fibrillation and hypothyroidism who presented with
   failure to thrive, decreased PO intake, elevated lactate,
   hypernatremia, hypotension, and supratherapeutic INR.  Overall has been
   improving with IVF, though remains intermittently hypotensive during
   sleep and with no PO intake
   #) FTT: medical w/u negative; has had as out-patient as well, which was
   negative.  Confirmed time course and diagnosis of dementia with pt
   neurologist.  Family wants to proceed with PEG.  No evidence of bleed
   on prelim Head CT read.  ? relevance of enlarged ventricles on imaging
   -- surgery plans to take to OR today (coags, UA done; recent CXR in
   computer)
   -- f/u final read of
   -- Neurologist recommended trial of antidepressant (e.g., Paxil or
   Remeron) once taking PO
[**Last Name (un) 3838**] CT
   #) Hypotension: remains off pressors; SBP dips to 80
s while sleeping,
   but no evidence of end organ damage.
    #) Atrial fibrillation: Patient on sotalol and coumadin as
   outpatient.  Earlier in week remained in afib , on [**2140-11-26**], had  HR 110-
   120
s, occ 130
s even while at rest.  Was loaded with amio IV with
   conversion to SR and HR < 100.
   -- cont IV amio; will convert to amio 400 mg TID PO once PEG can be
   used
   -- will discuss with surgery when heparin ggt can be started; will use
   as bridge to coumadin
   -- Dr. [**Last Name (STitle) 876**] plans to electrically cardiovert in [**2-27**] weeks once
   anticoagulated
   #) ? Seizure disorder, Meds for Mood Stabilization: clarified with
   neurologist that depakote is for mood stabilization.  She is not also
   on trileptal.
   -- canceled trileptal order (though wasn
t taking b/c was a PO med)
   -- Giving IV valproate while here in ICU; will convert back to home
   dose depakote once taking meds through PEG
   #) Hypothyroidism:
   -- cont levothyroxine 37.5 mg IV QD; convert back to PO home dose once
   taking meds by PEG
    #) GERD:
   -- Continuing PPI IV as unable to take PO
s; will convert when taking
   meds through PEG
    #) FEN:
   -- nutrition consult for feed recs once using PEG
   -- was on IVF overnight for maintenance
   #) Code: Full per discussion with patient's HCP
   #) Communication: Brother: [**Name (NI) 82**] [**Name (NI) 3637**] is HCP [**Telephone/Fax (1) 3638**]; work
   [**Telephone/Fax (1) 3639**] (? home)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-11-28**] 10:41 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2140-12-01 11:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PEG INSERTION - At [**2140-11-30**] 06:01 PM
   PEG done by general surgery and this RN at bedside, pt. given moderate
   sedation (1mg of Versed and 50mcg of Fentanyl) during the case.  Pt.
   tolerated well.
   History obtained from Medical records
   Patient unable to provide history: dementia
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-11-30**] 03:55 PM
   Midazolam (Versed) - [**2140-11-30**] 06:05 PM
   Furosemide (Lasix) - [**2140-11-30**] 08:34 PM
   Fentanyl - [**2140-11-30**] 08:44 PM
   Metoprolol - [**2140-12-1**] 09:05 AM
   Other medications:
   Paxil, warfarin, lasix, lansoprazole, amiondarone, Valproate,
   levothyroxine.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-1**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 93 (85 - 151) bpm
   BP: 87/51(59) {70/30(44) - 109/77(127)} mmHg
   RR: 12 (9 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,499 mL
                                                                    206 mL
   PO:
             TF:
   IVF:
                                                                  1,499 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    470 mL
   Urine:
                                                                  2,590 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,091 mL
                                                                   -264 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, Irreg
   Irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, G
   tube in place
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   186 K/uL
   61 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   2 mg/dL
   108 mEq/L
   141 mEq/L
   28.5 %
   12.1 K/uL
        [image002.jpg]
                             [**2140-11-24**]  06:25 PM
                             [**2140-11-25**]  03:49 AM
                             [**2140-11-25**]  02:45 PM
                             [**2140-11-26**]  03:15 AM
                             [**2140-11-27**]  03:28 AM
                             [**2140-11-28**]  03:37 AM
                             [**2140-11-29**]  04:05 AM
                             [**2140-11-29**]  04:35 PM
                             [**2140-11-30**]  02:27 AM
                             [**2140-12-1**]  02:06 AM
   WBC
   10.1
   8.3
   7.0
   6.2
   4.7
   5.1
   12.1
   Hct
   32.2
   28.6
   28.0
   25.3
   26.4
   27.4
   28.5
   Plt
   [**Telephone/Fax (3) 3836**]48
   157
   163
   186
   Cr
   1.2
   1.1
   1.1
   0.9
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   171
   91
   137
   116
   126
   113
   67
   143
   90
   61
   Other labs: PT / PTT / INR:13.5/30.6/1.2, CK / CKMB /
   Troponin-T:310/10/0.29, ALT / AST:21/37, Alk Phos / T Bili:54/0.5,
   Amylase / Lipase:15/28, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:13.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L,
   Albumin:1.7 g/dL, LDH:365 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Imaging: No new imaging
   Microbiology: No new micro
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's p/w profound dehydration.
    Hypotension:  Remained off pressors for 48+ hours.  Urine output
   improved compared to yesterday
     -Continue to monitor
    Failure to Thrive:  Likely [**12-26**] dementia.  G tube in place.
     -Start tube feeds today
     -PM labs to monitor for refeeding syndrome
   Volume status:  Still grossly total volume overloaded
     -Diurese with goal -1L today
    AFib:  Currently off of sotalol and coumadin as she is not taking
   PO's.  Having some RVR requiring amio this AM.  QT=432ms
     -Continue amio load via NGT today
     -Coumadin via G tube. Goal INR [**12-27**]
   MS
 Down
s syndrome with presumed Alzheimer
s dementia
     -Trial of SSRI in case depression contributing
   Hypothyroid:  Now on IV replacement, will change to PGT
   Access:  PICC in place
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-11-28**] 10:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes